US06852717B2
To a solution of [4-(2-iodo-pyrimidin-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester (100 mg, 0.44 mmol) in 2 mL of DMF, was added, 0.5 mL MeOH, 0.12 mL of Et3N (0.9 mmol), Pd(OAc)2 (10 mg, 0.04 mmol), and DPPF (44 mg, 0.4 mmol). The reaction was heated under a CO balloon at 60° C. for 5 h. The reaction was then diluted with EtOAc, concentrated in vacuo on silica gel and chromatographed directly with 10-80% EtOAc-hexanes to provide 26 mg (14%) of 4-(4-tert-butoxycarbonylamino-naphthalen-1-yloxy)-pyrimidine-2-carboxylic acid methyl ester as a brown solid.

reactant | [4-(2-iodo-pyrimidin-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | 0.44 mmol, 100 mg | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OC1=NC(=NC=C1)I)=O | C19H18IN3O3
reactant | MeOH | 0.5 mL | CO | CH4O
reactant | Et3N | 0.9 mmol, 0.12 mL | CCN(CC)CC | C6H15N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.04 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 0.4 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-(4-tert-butoxycarbonylamino-naphthalen-1-yloxy)-pyrimidine-2-carboxylic acid methyl ester | 26 mg, 14% | COC(=O)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(=O)OC(C)(C)C | C21H21N3O5
